US06573263B2
50 mg (0.10 mmol) of 7-(1-acetyl-4-phenylbutyl)-2-(3,4-dimethoxybenzyl)-5-ethyl-imidazo[5,1-f][1,2,4]triazin-4(3H)-one, analogously to Example 12 are reacted with 19 mg (0.50 mmol) of sodium borohydride to give 2-(3,4-dimethoxybenzyl)-5-ethyl-7-[1-(1-hydroxyethyl)-4-phenylbutyl]imidazo[5,1-f][1,2,4]triazin-4(3H)-one.

reactant | 7-(1-acetyl-4-phenylbutyl)-2-(3,4-dimethoxybenzyl)-5-ethyl-imidazo[5,1-f][1,2,4]triazin-4(3H)-one | 0.10 mmol, 50 mg | C(C)(=O)C(CCCC1=CC=CC=C1)C1=NC(=C2C(NC(=NN21)CC2=CC(=C(C=C2)OC)OC)=O)CC | C28H32N4O4
reactant | sodium borohydride | 0.50 mmol, 19 mg | [BH4-].[Na+]
product | 2-(3,4-dimethoxybenzyl)-5-ethyl-7-[1-(1-hydroxyethyl)-4-phenylbutyl]imidazo[5,1-f][1,2,4]triazin-4(3H)-one | COC=1C=C(CC2=NN3C(C(N2)=O)=C(N=C3C(CCCC3=CC=CC=C3)C(C)O)CC)C=CC1OC | C28H34N4O4
